US06252070B1
4-(7-Methoxy-benzo[1,3]dioxol-5-yl)-1,1-dioxo-2-o-tolyl-1,2-dihydro-1λ6-benzo[e][1,2]thiazine-3-carboxylic acid methyl ester
To a dry 100-mL flask was added {[2-(7-methoxy-benzo[1,3]dioxole-5-carbonyl)-benzenesulfonyl]-o-tolyl-amino}-acetic acid methyl ester (2.0 g, 4.2 mmol), dry 4 angstrom molecular sieves (8 g), and Ti(TfO)2Cl2 (0.56 g, 0.48 mmol). The flask was cooled to −60° C. and dichloromethane (45 mL) was added. A solution of triethylamine (1.35 g, 9.73 mmol) in dichloromenthan (18 mL) was added. The mixture was warmed to 5° C. over 2 hours, followed by refrigeration at 0° C. for 18 hours. The mixture was poured in to 50-mL ammonium phosphate buffer solution (pH 7), stirred 20 minutes, and filtered. The organic phase was washed with brine, dried over anhydrous magnesium sulfate, filtered, and evaporated in vacuo to an oil. The oil was chromatographed on 150 g silica gel eluted with a mixture of ethyl acetate and hexane (40:60). The appropriate fractions were evaporated in vacuo, and the residue was evaporated to a foam, 1.02 g, 53%. NMR spectra and elemental analysis were consistent with the structure.

reactant | {[2-(7-methoxy-benzo[1,3]dioxole-5-carbonyl)-benzenesulfonyl]-o-tolyl-amino}-acetic acid methyl ester | 4.2 mmol, 2.0 g | COC(CN(C1=C(C=CC=C1)C)S(=O)(=O)C1=C(C=CC=C1)C(=O)C1=CC2=C(OCO2)C(=C1)OC)=O | C25H23NO8S
reactant | dichloromethane | 45 mL | ClCCl | CH2Cl2
reactant | triethylamine | 9.73 mmol, 1.35 g | C(C)N(CC)CC | C6H15N
reactant | ammonium phosphate | 50-mL, pH 7 | P(=O)([O-])([O-])[O-].[NH4+].[NH4+].[NH4+]
solvent | dichloromenthan | 18 mL | ClC1C(CCC(C1)C(C)C)(C)Cl | C10H18Cl2
product | 4-(7-Methoxy-benzo[1,3]dioxol-5-yl)-1,1-dioxo-2-o-tolyl-1,2-dihydro-1λ6-benzo[e][1,2]thiazine-3-carboxylic acid methyl ester | COC(=O)C=1N(S(C2=C(C1C1=CC3=C(OCO3)C(=C1)OC)C=CC=C2)(=O)=O)C2=C(C=CC=C2)C | C25H21NO7S
